US07253286B2
N-(4-(6,7-Dimethoxyquinolin-4-yloxy)phenyl)-N′-(3-methanesulfonylphenyl)urea
The 4-(6,7-dimethoxyquinolin-4-yloxy)phenylamine (296 mg, 1.00 mmol) obtained by the method described in WO97/17329 and (3-methanesulfonylphenyl)carbamic acid phenyl ester (291 mg, 1.00 mmol) were heated and stirred in dimethyl sulfoxide (3 ml) at 85° C. for 2 hours. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent−ethyl acetate:methanol=30:1), the fraction containing the target substance was concentrated and suspended in ethyl acetate, the suspension was diluted with hexane and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (430 mg, 0.871 mmol, 87%) as colorless crystals.

reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)phenylamine | 1.00 mmol, 296 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | (3-methanesulfonylphenyl)carbamic acid phenyl ester | 1.00 mmol, 291 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)S(=O)(=O)C)=O | C14H13NO4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | N-(4-(6,7-Dimethoxyquinolin-4-yloxy)phenyl)-N′-(3-methanesulfonylphenyl)urea | 0.871 mmol, 430 mg, 87% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)S(=O)(=O)C | C25H23N3O6S
